US04036979
Preparation of 4,5,6,7-tetrahydrobenzo[b]-thien-4-ylurea
A 1 gram sample of 4-hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene is stirred in the cold for several hours in thionyl chloride (5 ml.) and the mixture is evaporated to dryness. The crude 4-chloro-4,5,6,7-tetrahydrobenzo[b]thiophene is then added to a mixture of urea (1- 5 mole-equivalents) in dimethylformamide and diisopropyl ethylamine. The mixture is warmed, after several hours, to 50° C. and after 4 hours is poured on ice and the product, 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea, is collected by filtration.

reactant | 4-hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene | OC1CCCC=2SC=CC21 | C8H10OS
reactant | 4-chloro-4,5,6,7-tetrahydrobenzo[b]thiophene | ClC1CCCC=2SC=CC21 | C8H9ClS
reactant | urea | 1- 5 mole | NC(=O)N | CH4N2O
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4,5,6,7-tetrahydrobenzo[b]-thien-4-ylurea | S1C2=C(C=C1)C(CCC2)NC(=O)N | C9H12N2OS
